US07030160B2
a) 4-benzyloxy-3-propanesulfonylamino-benzene acetate
5.0 g (0.00194 mole) of 3-amino-4-benzyloxybenzene were mixed with 150 ml of methylene chloride in a nitrogen atmosphere and 3.3 ml (0.0236 mole) of triethylamine and 2.74 ml (0.0236 mole) of 1-propanesulfonyl chloride were added. It was stirred overnight at ambient temperature. It was washed with water, the two phases were separated and the organic phase was dried over sodium sulfate; it was filtered and the solvent was evaporated off under reduced pressure. The residue was taken up in isopropyl ether and the precipitate was filtered. The compound of the heading was obtained.

reactant | 3-amino-4-benzyloxybenzene | 0.00194 mole, 5.0 g | NC=1C=CC=CC1OCC1=CC=CC=C1 | C13H13NO
reactant | triethylamine | 0.0236 mole, 3.3 ml | C(C)N(CC)CC | C6H15N
reactant | 1-propanesulfonyl chloride | 0.0236 mole, 2.74 ml | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-benzyloxy-3-propanesulfonylamino-benzene acetate | C(C)(=O)O.C(C1=CC=CC=C1)OC1=C(C=CC=C1)NS(=O)(=O)CCC | InChI=1S/C16H19NO3S.C2H4O2/c1-2-12-21(18,19)17-15-10-6-7-11-16(15)20-13-14-8-4-3-5-9-14;1-2(3)4/h3-11,17H,2,12-13H2,1H3;1H3,(H,3,4)
